US04563463
5-Chloro-3-methyl-2-oxo-3H-oxazolo[4,5-h]quinoline
To a solution of 5-Chloro-7-amino-8-hydroxyquinoline (3.0 g, 13.6 mmol), degreased sodium hydride (1.0 g, 50% in oil) and DMF at 60° C. was added methyl iodide. The reaction was stirred for 1 hour. Water was added and the mixture was extracted with chloroform (3×). The organic extracts were combined and concentrated. The remaining solid was crystallized from ethanol to give 1.4 g (45% yield) of product. M.P. 219°-221° C.

reactant | 5-Chloro-7-amino-8-hydroxyquinoline | 13.6 mmol, 3.0 g | ClC1=C2C=CC=NC2=C(C(=C1)N)O | C9H7ClN2O
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | methyl iodide | CI | CH3I
solvent | Water | O | H2O
product | 5-Chloro-3-methyl-2-oxo-3H-oxazolo[4,5-h]quinoline | 1.4 g, 45% yield | ClC=1C=2C=CC=NC2C2=C(C1)N(C(O2)=O)C | C11H7ClN2O2
